US07674807B2
Into a THF solution (35 ml) of 1-(3-methyl-4-nitrophenyl)-ethanol (5.44 g) and triethylamine (3.95 g), a THF solution (10 ml) of methanesulfonyl chloride (3.48 g) was added dropwise at 5° C. over a period of 30 minutes. Further, the mixture was stirred at room temperature for 8 hours. After finishing the reaction, the solvent was distilled off and the residue was dissolved in ethyl acetate (100 ml). It was washed with 2N aqueous solution of hydrochloric acid and saturated aqueous solution of sodium bicarbonate and then dried with anhydrous magnesium sulfate. After distilling off the solvent, the aimed 1-(3-methyl-4-nitrophenyl)-ethyl methanesulfonate (5.80 g) was obtained.

reactant | 1-(3-methyl-4-nitrophenyl)-ethanol | 5.44 g | CC=1C=C(C=CC1[N+](=O)[O-])C(C)O | C9H11NO3
reactant | triethylamine | 3.95 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.48 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 1-(3-methyl-4-nitrophenyl)-ethyl methanesulfonate | 5.80 g | CS(=O)(=O)OC(C)C1=CC(=C(C=C1)[N+](=O)[O-])C | C10H13NO5S
